US04289524
Preparation of N-(5,5,7,7-TETRAMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-YL)-N'-METHYLUREA
2-Amino-5,5,7,7-tetramethyl-4,5,6,7-tetrahydrobenzothiazole (21 grams; 0.1 mole) was dissolved in ethyl acetate (100 ml) and the solution charged into a glass reaction vessel fitted with a mechanical stirrer and themometer. Methyl isocyanate (6.2 grams 0.11 mole) was added dropwise to this solution over a period of 30 minutes. The temperature of the reactants was at about 20°-25° C. during the addition. At the conclusion of the isocyanate addition, stirring was continued at room temperature for a period of about 2 hours. The desired product, 2-amino-5,5,7,7-tetramethyl-4,5,6,7-tetrahydrobenzothiazole, a solid, was then filtered from the reaction mixture and air dried. Its melting point was greater than 250° C.

reactant | 2-Amino-5,5,7,7-tetramethyl-4,5,6,7-tetrahydrobenzothiazole | 0.1 mole, 21 grams | NC=1SC2=C(N1)CC(CC2(C)C)(C)C | C11H18N2S
reactant | Methyl isocyanate | 0.11 mole, 6.2 grams | CN=C=O | C2H3NO
reactant | isocyanate | [N-]=C=O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(5,5,7,7-TETRAMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-YL)-N'-METHYLUREA | CC1(CC(C2=C(N=C(S2)NC(=O)NC)C1)(C)C)C | C13H21N3OS
